US05990156
(4R,5R,6R)-5-Acetylamino-4-hydroxy-6-(phenethylpropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid
(4R,5R,6R)-5-Acetylamino-4-hydroxy-6-(phenethylpropylcarbamoyl)-5,6-dihydro-4-H-pyran-2-carboxylic acid, methyl ester (300 mg) in triethylamine/water (1:2, 1.5 ml) was heated at 50° C. for 2 hours. Further triethylamine (1 ml) was added and the reaction heated for 2 hours. The reaction mixture was evaporated to dryness and co-evaporated with toluene (5 ml, ×3) and ether and dried to give the title compound (155 mg). 1H NMR (250MHz, D6 -DMSO, rotamers) 7.7 (1H, 2×d, J=9Hz), 7.2--7.4 (5H, m), 5.8 (1H, 2×d, J=5Hz), 4.8 (1H, 2×d, J=8Hz)), 4.2 (1H, m), 4.1 (1H, m), 3.0-3.8 (5H, m), 2.7--2.9 (2H, m) 1.8 (3H, two s) 1.4-1.6 (2H, m) 0.8 (3H, m). Mass Spec. (Low resolution): MH+ =391. Mass Analysis: C20H26N2O6.0.8 C6H5N, 1.0 H2O Requires: C, 60.9; H,8.2; N, 8.0. Found: C, 60.9; H, 8.0; N, 8.1.

reactant | (4R,5R,6R)-5-Acetylamino-4-hydroxy-6-(phenethylpropylcarbamoyl)-5,6-dihydro-4-H-pyran-2-carboxylic acid, methyl ester | 300 mg | C(C)(=O)N[C@@H]1[C@@H](C=C(O[C@H]1C(NCCCCCC1=CC=CC=C1)=O)C(=O)OC)O | C21H28N2O6
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine water | 1.5 ml | C(C)N(CC)CC.O
product | (4R,5R,6R)-5-Acetylamino-4-hydroxy-6-(phenethylpropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid | 155 mg | C(C)(=O)N[C@@H]1[C@@H](C=C(O[C@H]1C(NCCCCCC1=CC=CC=C1)=O)C(=O)O)O | C20H26N2O6
